US05214055
1-acetyl-4-methylaminopiperidine
9.9 g of methylamine in 50 ml of ethanol are added to 14.4 g of 1-acetyl-4-oxopiperidine in 100 ml of ethanol. The mixture is then hydrogenated in the presence of platinum oxide at room temperature and atmospheric pressure, filtered and evaporated.

reactant | methylamine | 9.9 g | CN | CH5N
reactant | 1-acetyl-4-oxopiperidine | 14.4 g | C(C)(=O)N1CCC(CC1)=O | C7H11NO2
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | platinum oxide | [Pt]=O
product | 1-acetyl-4-methylaminopiperidine | C(C)(=O)N1CCC(CC1)NC | C8H16N2O
